US06335341B1
A solution of 4-bromobenzoylchloride (0.53 g) in dichloromethane (3 ml) was added to a mixture of 1-(2-methylpyrimidin-4-yl)-4-(piperazin-1-ylcarbonyl)piperidine-4-ol hydrochloride (0.65 g) and triethylamine (1.7 ml) in dichloromethane (30 ml) at 5° C. The solution was stirred at ambient temperature for 18 hours. The resulting solution was evaporated to dryness. The residue was dissolved in dichloromethane and the solution was washed with water, dried (Na2SO4) and evaporated to dryness. The residue was purified by flash column chromatography on alumina (ICN alumina N32-63), using 0.1-0.4% methanol in dichloromethane as eluent. Recrystallisation from ethyl acetate/isohexane gave 1-(4-bromobenzoyl)-4-[1-(2-methylpyrimidin-4-yl)-4-hydroxy-4-piperidylcarbonyl]piperazine, as a colourless solid (0.53 g), mp114-117° C.

reactant | 4-bromobenzoylchloride | 0.53 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 1-(2-methylpyrimidin-4-yl)-4-(piperazin-1-ylcarbonyl)piperidine-4-ol hydrochloride | 0.65 g | Cl.CC1=NC=CC(=N1)N1CCC(CC1)(O)C(=O)N1CCNCC1
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(4-bromobenzoyl)-4-[1-(2-methylpyrimidin-4-yl)-4-hydroxy-4-piperidylcarbonyl]piperazine | BrC1=CC=C(C(=O)N2CCN(CC2)C(=O)C2(CCN(CC2)C2=NC(=NC=C2)C)O)C=C1 | C22H26BrN5O3
